US07671048B2
d) 4-Trifluoromethoxy-2-(2H-[1,2,4]triazol-3-yl)-phenylamine
As described for example 23c) 9-trifluoromethoxy-6H-[1,2,4]triazolo[1,5-c]quinazolin-5-one (5.51 g, 20.4 mmol), instead of 9-bromo-6H-[1,2,4]triazolo[1,5-c]quinazolin-5-one, was converted to the title compound (3.22 g, 65%) which was obtained as a light brown solid. MS: m/e=245.2 [M+H]+.

reactant | 9-trifluoromethoxy-6H-[1,2,4]triazolo[1,5-c]quinazolin-5-one | 20.4 mmol, 5.51 g | FC(OC1=CC=2C=3N(C(NC2C=C1)=O)N=CN3)(F)F | C10H5F3N4O2
reactant | 9-bromo-6H-[1,2,4]triazolo[1,5-c]quinazolin-5-one | BrC1=CC=2C=3N(C(NC2C=C1)=O)N=CN3 | C9H5BrN4O
product | 4-Trifluoromethoxy-2-(2H-[1,2,4]triazol-3-yl)-phenylamine | 3.22 g, 65% | FC(OC1=CC(=C(C=C1)N)C=1NN=CN1)(F)F | C9H7F3N4O
